US06878707B2
To a solution of (5-amino-indan-2-yl)-carbamic acid tert-butyl ester (12.5 mmol) in methylene chloride (75 mL) is added diisopropylethyl amine (3.3 g, 25 mmol) followed by a solution of 6-methyl-4′-trifluoromethyl-1,1′-biphenyl-2-carboxylic acid chloride (12.6 mmol) in methylene chloride. After stirring 16 h, the reaction mixture is poured into ethyl acetate and washed with 1N HCl, NaHCO3 solution, and brine. The organic layer is dried (MgSO4) and concentrated under reduced pressure to give a solid. Recrystallization from toluene gives {5-[(6-methyl-4′-trifluoromethyl-1,1′-biphenyl-2-carbonyl)-amino]-indan-2-yl}-carbamic acid tert-butyl ester.

reactant | (5-amino-indan-2-yl)-carbamic acid tert-butyl ester | 12.5 mmol | C(C)(C)(C)OC(NC1CC2=CC=C(C=C2C1)N)=O | C14H20N2O2
reactant | diisopropylethyl amine | 25 mmol, 3.3 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 6-methyl-4′-trifluoromethyl-1,1′-biphenyl-2-carboxylic acid chloride | 12.6 mmol | CC=1C=CC=C(C1C1=CC=C(C=C1)C(F)(F)F)C(=O)Cl | C15H10ClF3O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | {5-[(6-methyl-4′-trifluoromethyl-1,1′-biphenyl-2-carbonyl)-amino]-indan-2-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CC2=CC=C(C=C2C1)NC(=O)C=1C(=C(C=CC1)C)C1=CC=C(C=C1)C(F)(F)F)=O | C29H29F3N2O3
